US05508266
To a stirred solution of L-tyrosine ethyl ester (2.10 g, 10.0 mmol) and N-t-butoxy-carbonyl-α-methylalanine (2.03 g, 10.0 mmol) in dimethylformamide (40 mL) is added 1,3-dicyclohexylcarbodiimide (2.26 g, 11.0 mmol) and 1-hydroxybenzotriazole (1.48 g, 11.0 mmol). The mixture is stirred overnight and then water (50 mL) is added. The aqueous phase is extracted with ethyl acetate (3×75 mL). The combined organic phases are washed with a saturated solution of sodium bicarbonate (25 mL), brine, dried over magnesium sulfate and the solvent is removed to give a light yellow oil. The oil is purified by flash chromatography (SiO2 :hexane/ethyl acetate) to afford N-[2-(t-butoxy-carbonylamino)-2-methyl-1-oxopropyl]-L-tyrosine ethyl ester as a white solid.

reactant | L-tyrosine ethyl ester | 10.0 mmol, 2.10 g | C(C)OC([C@@H](N)CC1=CC=C(C=C1)O)=O | C11H15NO3
reactant | N-t-butoxy-carbonyl-α-methylalanine | 10.0 mmol, 2.03 g | C(C)(C)(C)ON[C@@](C=C=O)(C(=O)O)C | C9H15NO4
reactant | 1,3-dicyclohexylcarbodiimide | 11.0 mmol, 2.26 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 1-hydroxybenzotriazole | 11.0 mmol, 1.48 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
solvent | water | 50 mL | O | H2O
product | N-[2-(t-butoxy-carbonylamino)-2-methyl-1-oxopropyl]-L-tyrosine ethyl ester | C(C)OC([C@@H](NC(C(C)(C)NC(=O)OC(C)(C)C)=O)CC1=CC=C(C=C1)O)=O | C20H30N2O6
